US07576074B2
A mixture (4-methylpiperazin-1-yl)acetonitrile (400 mg), hydroxylamine (50% aqueous solution, 2.0 mL) and ethanol (10.0 mL), was stirred at room temperature for 18 hours. The reaction mixture was evaporated to dryness to give a crystalline solid that was washed with hexane and dried under vacuum to give N-hydroxy-2-(4-methylpiperazin-1-yl)ethanimidamide (405 mg). 1H-NMR (400 MHz; CDCl3): 5.19 (br s, 3H), 3.00 (s, 2H), 2.75-2.28 (br m, 8H), 2.70 (s, 3H).

reactant | (4-methylpiperazin-1-yl)acetonitrile | 400 mg | CN1CCN(CC1)CC#N | C7H13N3
reactant | hydroxylamine | 2.0 mL | NO | H3NO
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
product | N-hydroxy-2-(4-methylpiperazin-1-yl)ethanimidamide | 405 mg | ONC(CN1CCN(CC1)C)=N | C7H16N4O
